US05134142
A mixture of 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazol-3-amine (0.7 g) and acetic anhydride (0.22 ml) in dichloromethane (15 ml) was stirred at ambient temperature for 3 hours, and concentrated. The residue was purified by column chromatography on silica gel (15 g) eluting with a mixture of toluene and ethyl acetate (2:1). The desired product (0.63 g) was recrystallized from ethanol to give pale brown crystals of N-{1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3-pyrazolyl}acetamide (0.52 g).

reactant | 1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]pyrazol-3-amine | 0.7 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)N | C16H14FN3O2S
reactant | acetic anhydride | 0.22 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-{1-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3-pyrazolyl}acetamide | 0.52 g | FC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C18H16FN3O3S
